US08012981B2
1,1-Dimethylethyl (2S)-4-({4-[{[4-(4-fluorophenyl)-1-piperidinyl]carbonyl}(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D48)
To a solution of 1,1-dimethylethyl (2S)-2-methyl-4-{[4-(methylamino)phenyl]methyl}-1-piperazinecarboxylate (D23) (100 mg, 0.31 mmol) in DCM (5 ml) was added saturated aqueous NaHCO3 solution (5 ml) and the mixture stirred vigorously for 10 min at 0° C. The mixture was allowed to stand and a solution of phosgene in toluene (0.327 ml, 20% in toluene, 0.63 mmol) was injected into the DCM layer of the reaction mixture. The mixture was stirred for a further 10 min and the DCM layer was separated and the aqueous extracted with DCM. The combined organics were dried and concentrated to give a colourless oil. This whole was dissolved in 1,2-DCE (5 ml) and 4-(4-fluorophenyl)piperidine hydrochloride (74 mg, 0.34 mmol) and triethylamine (0.083 ml, 0.63 mmol) were added. The mixture was heated to 120° C. in a microwave reactor for 30 minutes. The reaction mixture was diluted with DCM/water and the organic layer separated, dried (Na2SO4) and concentration gave a crude colourless oil (189 mg). Column chromatography eluting with 0-10% EtOAc/petrol gave the title compound as a colourless oil (156 mg), MS (ES): MH+ 525.3.

reactant | 1,1-dimethylethyl (2S)-2-methyl-4-{[4-(methylamino)phenyl]methyl}-1-piperazinecarboxylate | 0.31 mmol, 100 mg | C[C@@H]1N(CCN(C1)CC1=CC=C(C=C1)NC)C(=O)OC(C)(C)C | C18H29N3O2
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.63 mmol, 0.327 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-(4-fluorophenyl)piperidine hydrochloride | 0.34 mmol, 74 mg | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | triethylamine | 0.63 mmol, 0.083 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | 1,2-DCE | 5 ml | ClCCCl | C2H4Cl2
solvent | DCM water | C(Cl)Cl.O
product | 1,1-Dimethylethyl (2S)-4-({4-[{[4-(4-fluorophenyl)-1-piperidinyl]carbonyl}(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 156 mg | FC1=CC=C(C=C1)C1CCN(CC1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C30H41FN4O3
